US04303655
To a solution prepared by stirring a mixture of selenium dioxide (6.2 g.), dioxane (320 ml.) and water (6.4 ml.) at 50° to 60° C. was added ethyl 2-(2-propanesulfonylamino-1,3-thiazol-4-yl)acetate, which can be represented as ethyl 2-(2-propanesulfonylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate, (16.3 g.), and the mixture was refluxed for 1 hour. To the mixture was added selenium dioxide (0.6 g.), and the mixture was further refluxed for 30 minutes and selenium dioxide (0.3 g.) was added thereto, and then the mixture was further refluxed for 30 minutes. After the reaction, the reaction mixture was filtered, and then dioxane was distilled off. The residue was dissolved in ethyl acetate under heating and then treated with activated charcoal. The solvent was distilled off, and the residue was washed with a small amount of ethyl acetate and diethyl ether in turn and dried to give ethyl 2-(2-propane-sulfonylamino-1,3-thiazol-4-yl)glyoxylate, which can be represented as ethyl 2(2-propanesulfonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate, (12.5 g.), mp 132° to 134° C.

reactant | selenium dioxide | 6.2 g | [Se](=O)=O | O2Se
reactant | dioxane | 320 ml | O1CCOCC1 | C4H8O2
reactant | ethyl 2-(2-propanesulfonylamino-1,3-thiazol-4-yl)acetate | C(CC)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C10H16N2O4S2
reactant | ethyl 2-(2-propanesulfonylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate | 16.3 g | C(CC)S(=O)(=O)N=C1SC=C(N1)CC(=O)OCC | C10H16N2O4S2
reactant | selenium dioxide | 0.6 g | [Se](=O)=O | O2Se
reactant | selenium dioxide | 0.3 g | [Se](=O)=O | O2Se
solvent | water | 6.4 ml | O | H2O
product | ethyl 2-(2-propane-sulfonylamino-1,3-thiazol-4-yl)glyoxylate | C(CC)S(=O)(=O)NC=1SC=C(N1)C(C(=O)OCC)=O | C10H14N2O5S2
